Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin / 
daptomycin / ertapenem
 
Attending: ___.
 
Chief Complaint:
shortness of breath, chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ F w/ history of recurrent PE (on apixaban), osteoarthritis,
depression, anxiety, PTSD, hypertension who comes in for a one
week history of chest pain and dyspnea. 

She started having chest pain a week ago, a sharp pain in the
upper middle chest. Would also feel like a tightening pain. It
was constant, not worse exertion. No radiation aside to both
shoulders. Only experienced a little bit of shortness of breath.
Pain did hurt a bit more with deep breathing. She states both
feet are newly swollen.  No recent travel or surgery. No cancer.
She takes eliquis for about a month. She states she has only
missed a dose or two. She switched from warfarin due to ease of
compliance. She takes lupron shots every 3 months but does not
take any estrogen. 

In the ED, 

- Initial vitals were: 96.4 87 ___ 100% RA 
 
- Exam was notable for: Normal physical exam. No leg tenderness.
No extremity swelling. Breathing comfortably. Breath sounds 
clear
and equal. No murmur.  
 
- Labs were notable for:  
CBC wnl
Coags with ___ 13.9 PTT 37.8 and INR 1.3 
D-Dimer 883, prompting CTA chest 
BMP wnl with Cr 0.8 and BUN 7
Troponin T <0.01 and proBNP 57
b-HCG negative 

- Studies were notable for:  
CTA chest: 1. Multiple acute segmental and subsegmental 
pulmonary
emboli within the bilateral lungs. No pulmonary infarction or
evidence of right heart strain. 2. No aortic abnormality. 3. 
Mild
diffuse bronchial airway inflammation. 4. 4 mm right middle lobe
nodule, stable since ___.

- No consults 
 
- Patient was given:  
___ 00:11 PO Aspirin 324 mg 
___ 00:47 PO/NG CARVedilol 25 mg 
___ 00:47 PO/NG LamoTRIgine 150 mg  
___ 00:47 PO/NG QUEtiapine Fumarate 150 mg 
___ 00:47 PO/NG Apixaban 5 mg 
___ 03:10 IV Heparin 6400 UNIT 
___ 03:10 IV Heparin 1450 units/hr 
 
On arrival to the floor, she states that her pain and breathing
are both better. She feels like her legs are a bit more swollen
in her feet bilaterally. She confirms that she has been taking
her apixban faithfully and maybe has missed one or two doses in
past month. 
 
Past Medical History:
-Osteoarthritis s/p LT TKR ___ s/p RT TKR ___
-prosthetic joint infection after revision of L knee ___
-pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently on eliquis
-abd wall cellulitis ___
-fibroids s/p supracervical hysterectomy, repair of bowel serosa
injury, cystoscopy (___)  
-fibromyalgia, depression, anxiety  
-left leg nerve entrapment 
-ectopic pregnancy  
-obesity
-OSA
-migraines
-GERD
-chronic lower back pain
-hypertension
 
Social History:
___
Family History:
-Father's health unknown except potential h/o stomach cancer.
-Uncle has unknown cancer.
-Mother with arthritis, DM, and osteoporosis.
-Aunt recently passed at ___ ___nd heart disease.
-Grandmother with breast cancer.
-No siblings.
-Children healthy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VITALS: reviewed in ___ 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: supple 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. Cap No rashes.  
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.  

DISCHARGE PHYSICAL EXAM:  
========================  
24 HR Data (last updated ___ @ 347)
    Temp: 98.5 (Tm 98.5), BP: 131/80 (115-161/77-105), HR: 70
(62-77), RR: 18 (___), O2 sat: 99% (95-99), O2 delivery: Ra   

GENERAL: NAD 
CV: RRR, S1/S2, no murmurs, gallops, or rubs 
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles 
EXTREMITIES: trace pitting edema bilaterally. R ankle and foot
without swelling or erythema, mild tenderness with ankle flexion
and extension, ___ strength. Negative ___ sign bilaterally.
No palpable cords.
NEURO: Photosensitive, CN grossly intact, sinus tenderness.
 
Pertinent Results:
ADMISSION LABS
================
___ 09:40PM BLOOD WBC-5.0 RBC-4.35 Hgb-11.6 Hct-37.7 MCV-87 
MCH-26.7 MCHC-30.8* RDW-14.7 RDWSD-46.8* Plt ___
___ 09:40PM BLOOD Neuts-51.5 ___ Monos-6.4 Eos-1.4 
Baso-0.4 Im ___ AbsNeut-2.58 AbsLymp-2.00 AbsMono-0.32 
AbsEos-0.07 AbsBaso-0.02
___ 09:40PM BLOOD ___ PTT-37.8* ___
___ 09:40PM BLOOD Glucose-92 UreaN-7 Creat-0.8 Na-142 K-4.1 
Cl-106 HCO3-25 AnGap-11
___ 09:40PM BLOOD proBNP-57
___ 09:40PM BLOOD cTropnT-<0.01
___ 03:54AM BLOOD cTropnT-<0.01

DISCHARGE LABS
================
___ 07:53AM BLOOD WBC-4.8 RBC-5.05 Hgb-13.4 Hct-43.2 MCV-86 
MCH-26.5 MCHC-31.0* RDW-14.8 RDWSD-45.8 Plt ___
___ 07:53AM BLOOD ___ PTT-43.9* ___
___ 07:53AM BLOOD Glucose-98 UreaN-7 Creat-1.2* Na-144 
K-4.7 Cl-106 HCO3-21* AnGap-17
___ 07:53AM BLOOD Calcium-9.9 Phos-3.7 Mg-2.0

IMAGING
==============
___ CXR
IMPRESSION
No acute cardiopulmonary process.

___ CTA CHEST
1. Multiple acute segmental and subsegmental pulmonary
emboli within the bilateral lungs. No pulmonary infarction or
evidence of right heart strain. 2. No aortic abnormality. 3. 
Mild
diffuse bronchial airway inflammation. 4. 4 mm right middle lobe
nodule, stable since ___.

___ CT Head w/out Contrast
FINDINGS:  
There is no evidence of infarction, hemorrhage, edema, or mass. 
The ventricles and sulci are normal in size and configuration. 
No osseous abnormalities seen. The paranasal sinuses, mastoid 
air cells, and middle ear cavities are clear. The orbits are 
unremarkable. 
IMPRESSION:  
No acute intracranial abnormality. 

 
Brief Hospital Course:
PATIENT SUMMARY
================
___ F w/ history of recurrent PE (on apixaban), osteoarthritis, 
depression, anxiety, PTSD, hypertension who presented with one 
week of chest pain and dyspnea, found to have acute PE.

TRANSITIONAL ISSUES
===================
[ ] Patient experiencing migraines with dizziness and was 
discharged with a walker and outpatient ___ rehab.
[ ] Patient reported being on Carvedilol 25mg BID but has no 
fill history for this medication. Please clarify and prescribe 
if indicated.
[ ] Patient developed migraine headache during this 
hospitalization and was given additional doses of sumatriptan at 
discharge.
[ ] NEXT INR TO BE DRAWN ON ___ - Discussed with patient and 
clinic at ___.

ACUTE ISSUES
=============
#Pulmonary emboli
Patient presented w/ 1 wk hx of dyspnea, chest pain, and 
pleuritic chest pain. CTA chest on ___ confirmed multiple 
acute segmental and subsegmental pulmonary emboli within the 
bilateral lungs. No pulmonary infarction or evidence of right 
heart strain. Patient has a history of 1 provoked and 1 
unprovoked PE, followed by Dr. ___, prior 
hypercoagulation workup unremarkable. She was previously treated 
on warfarin, until about 1 month ago when she was transitioned 
to apixaban. She reports that she only missed 1 or 2 doses of 
apixaban this past month, although per PACT review of refill 
history she likely has missed 10 days of apixaban since 
initiating this medication. Decision was made to restart 
warfarin, initially bridged with heparin gtt then lovenox BID 
guided by factor Xa levels. Warfarin restarted on ___, INR 
trended daily and was in range at the time of discharge, though 
trending up at 2.7 on 7.5mg warfarin daily. She was instructed 
to have INR checked on ___ and dose of warfarin adjusted 
accordingly.

#Migraines
Patient having ___ headaches not relieved by Tylenol or 
oxycodone even when BP is well controlled. Reports history of 
migraines but has not had one in about ___ years. Given 
vasoconstrictive properties of triptans was advised by pharmacy 
to avoid these and try abortive therapy with metoclopramide and 
Benadryl. However, blood pressure improved and she was given two 
doses of triptan prior to discharge with improvement in 
symptoms. Patient experiencing migraines with dizziness and was 
discharged with a walker and outpatient ___ rehab.

#Hypertension
Pt reports taking carvedilol as home med, however none filled 
this year per PACT review. Initially started carvedilol this 
admission as presumed home med, discontinued given bradycardia.

#R ankle and foot pain
Pt reports mild R ankle and foot pain and weakness that is not 
new, does not recall trauma. Suspect MSK pain, exam reassuring. 
Had R foot XR and MRI in ___ and ___ for workup of 
painful soft tissue mass on R dorsal midfoot, studies 
unremarkable. No asymmetric leg swelling or pain although given 
PEs she is at high risk for DVT, already on anticoagulation as 
above.

CHRONIC/STABLE ISSUES: 
====================== 
#Asthma:
continued home fluticasone - per PACT review, uses this only 
when her breathing is bad, not daily

#Osteoarthritis: of left knee s/p replacement surgery and
Revision surgery. On oxycodone-acetaminophen at home. Gave 
acetaminophen 1000mg TID standing and oxycodone 5mg TID:PRN. 
continued tizanidine 8mg qhs 

#PTSD
#Anxiety and mood disorder: is followed by psychiatry here. Was 
recently seen: recommended continuing quetiapine 150mg qhs,
lamotrigine 150BID, hydroxyzine 50mg BID PR anxiety, and 
clonidine for ___ flashes and nightmares. These medications were 
continued.

#Hot flashes:
continued home clonidine

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
2. Apixaban 5 mg PO BID 
3. CARVedilol 25 mg PO BID 
4. CloNIDine 0.1 mg PO QHS 
5. fluticasone propionate 220 mcg/actuation inhalation BID 
6. HydrOXYzine 50 mg PO BID:PRN anxiety 
7. LamoTRIgine 150 mg PO BID 
8. Leuprolide Acetate 11.25 mg IM Q3MONTHS 
9. oxyCODONE-acetaminophen ___ mg oral TID:PRN 
10. QUEtiapine Fumarate 150 mg PO QHS 
11. Tizanidine 8 mg PO QHS 
12. Citalopram 10 mg PO DAILY 
13. CloNIDine 0.05 mg PO QAM 

 
Discharge Medications:
1.  Sumatriptan Succinate 50 mg PO DAILY:PRN migraine headache 
Duration: 1 Dose 
RX *sumatriptan succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*5 Tablet Refills:*0 
2.  Warfarin 4 mg PO DAILY16 
Adjust dose on recommendation of ___ clinic 
RX *warfarin 4 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
4.  Citalopram 10 mg PO DAILY  
5.  CloNIDine 0.1 mg PO QHS  
6.  CloNIDine 0.05 mg PO QAM  
7.  fluticasone propionate 220 mcg/actuation inhalation BID  
8.  HydrOXYzine 50 mg PO BID:PRN anxiety  
9.  LamoTRIgine 150 mg PO BID  
10.  Leuprolide Acetate 11.25 mg IM Q3MONTHS  
11.  oxyCODONE-acetaminophen ___ mg oral TID:PRN pain  
12.  QUEtiapine Fumarate 150 mg PO QHS  
13.  Tizanidine 8 mg PO QHS  
14. HELD- CARVedilol 25 mg PO BID  This medication was held. Do 
not restart CARVedilol until you talk to your primary care 
doctor
15.Outpatient Physical Therapy
Rolling walker
Diagnosis: Vestibular dizziness
Prognosis: Good
Length of Need: 13 months
16.Outpatient Physical Therapy
ICD 9 Code: ___.* : Vertiginous syndromes and other disorders of 
vestibular system

___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Recurrent PE (bilateral, multiple segmental/subsegmental)
#Depression
#Anxiety
#PTSD
#Hypertension
#Obesity
#R ankle pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
- You were admitted to the hospital because you were having 
chest pain and shortness of breath.

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- A CT scan showed that you have multiple blood clots in your 
lung (pulmonary emboli). These likely occurred because apixaban 
was not effective enough at thinning your blood, or may have 
been at too low a level because of missing some doses.
- You were started on blood thinning medications called heparin 
then lovenox to treat your pulmonary emboli. 
- Warfarin, a medication you took in the past, was restarted. 
- Lab tests to measure your coagulation levels were monitored 
closely. When the levels were safe to treat your pulmonary 
emboli and prevent future clots, you were ready for discharge 
home.
- You had headaches that were consistent with migraine 
headaches. You were given a medication to help treat the 
headaches.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Continue to take all your medicines and keep your 
appointments. 

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___